US07378410B2
To a solution of [(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-1-methyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester (0.85 g, 2.27 mmol) in THF (40 mL) is added tetrabutylammonium fluoride (3 mL 1M THF, 3 mmol) at room temperature. The reaction solution is stirred for 4 h, then H2O (40 mL) is added and the solution concentrated under vacuum to ½ its volume and extracted 3× with CH2Cl2 (40 mL). The combined CH2Cl2 extracts are adsorbed on silica and chromatographed (5% CH3OH/CH2Cl2) to give 0.568 g (72%) of ((3S,6R)-6-hydroxy-1-methyl-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester as a white solid. 1H NMR (CDCl3) δ 1.44 (s, 9H), 1.7-2.05 (m, 4H), 3.1 (s, 3H), 3.37 (dd, 1H), 3.73 (d, 1H), 4.07 (m, 1H), 4.31 (m, 1H), 6.0 (d, 1H).

reactant | [(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-1-methyl-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | 2.27 mmol, 0.85 g | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](CC1)O[Si](C)(C)C(C)(C)C)C)=O)=O | C18H36N2O4Si
reactant | tetrabutylammonium fluoride | 3 mmol, 1M, 3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | H2O | 40 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ((3S,6R)-6-hydroxy-1-methyl-2-oxo-azepan-3-yl)-carbamic acid tert-butyl ester | 0.568 g, 72% | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](CC1)O)C)=O)=O | C12H22N2O4
